data/core_train_final.csv
"CC(CCC=C(C)C)[CH:21]=[CH2:20].CC(=O)[CH2:10]>>CC(CCC=C(C)C)[CH:21][CH2:20][CH2:10]C(=O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:1][C:2]([H:3])([H:4])[C:5]([CH3:6])([CH3:8])[OH:7].[H:9][O:10]>>[H:1][C:2]([H:3])[C:5]([CH3:6])([CH3:8])[OH:7].[H:9][O:10][H:4] 10-4,10;2,4-4,10;2,4-2",Room Temperature,Propagation,abstraction
"[H:1][C:2]1[CH:10]=[CH:9][C:8]2=[CH:7][CH:6]=[CH:5][CH:4]=[C:3]12.[Br:11]>>[H:1][C:2]1([CH:10]=[CH:9][C:8]2=[CH:7][CH:6]=[CH:5][CH:4]=[C:3]21)[Br:11] 11-11,2;2-2,11",Room Temperature,Termination,recombine
"C[CH:10]C(C)(C)C.[Cl:20][Cl:21]>>C[CH:10](C(C)(C)C)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC([CH2:10])CC.[Cl:20][Cl:21]>>CCC(CC)[CH2:10][Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[O:10][O:11][O].[Cl:20]>>[O:11][O].[O:10][Cl:20] 10,11-10,20;10,11-11;20-10,20",Room Temperature,Propagation,abstraction
"[H:11][CH2:10]C.[Cl:20]>>C[CH2:10].[H:11][Cl:20] 20-11,20;10,11-11,20;10,11-10",Room Temperature,Propagation,abstraction
"[H:20][Sn:21](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C[CH2:10]>>[H:20][CH2:10]C.C1=CC=C(C=C1)[Sn:21](C2=CC=CC=C2)C3=CC=CC=C3 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C1=CC2=C(C=C1)[CH:10]C=C2.[Br:20][Br:21]>>C1=CC2=C(C=C1)[CH:10](C=C2)[Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:6][CH:5]1[CH2:7][CH2:8][C:2]([CH:3]=[CH:4]1)[CH3:1].[Br:9]>>[CH3:6][CH:5]1[CH2:7][CH2:8][C:2]([CH:3]=[CH:4]1)([CH3:1])[Br:9] 2-2,9;9-9,2",Room Temperature,Termination,recombine
"CC(C[CH:10]C(=O)C)C1=CC=CC=C1.CC(=O)[CH:21]=[CH2:20]>>CC(C[CH:10]([CH2:20][CH:21]C(=O)C)C(=O)C)C1=CC=CC=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(=CCC/C(=C/CCC(C)([C:21]#[CH:20])O)/C)C.C1=CC=C(C=C1)[Sn:10](C2=CC=CC=C2)C3=CC=CC=C3>>CC(=CCC/C(=C/CCC(C)([C:21]=[CH:20][Sn:10](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)O)/C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][C:21]1(CCCC(C1)(C)C)C.[Br:10]>>[H:20][Br:10].C[C:21]1CCCC(C1)(C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"O=[N+](O)OC[C:11](C[O:10][N+:20]([O-])=O)CO[N+]([O-])=O>>O=[N+](O)OC[C:11]1(C[O:10]1)CO[N+]([O-])=O.O=[N+:20][O-] 11-10,11;10,20-10,11;10,20-20",Room Temperature,Propagation,retroaddition
"[H:20][CH:21]1CCCC1.[Cl:10]>>[H:20][Cl:10].C1CC[CH:21]C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:9][Br:10].[CH3:1][CH2:2][CH2:3][CH:4]([C:6]([CH3:7])[CH3:8])[Br:5]>>[H:9][C:6]([CH3:7])([CH3:8])[CH:4]([CH2:3][CH2:2][CH3:1])[Br:5].[Br:10] 6-9,6;10,9-10;10,9-9,6",Room Temperature,Propagation,abstraction
"[H:20][C:21](C)(CCCO[O:10])C=C>>[H:20][O:10]OCCC[C:21](C)C=C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[Br:1].[Br:2]>>[Br:1][Br:2] 1-1,2;2-2,1",Room Temperature,Termination,recombine
"[CH:2](=[CH:3][Cl:4])[Cl:1].[Cl:5]>>[CH:2]([CH:3]([Cl:4])[Cl:5])[Cl:1] 3,2-2; 3,2-3,5; 5-3,5",Room Temperature,Propagation,addition
"[CH3:16][CH2:15][CH2:14][CH2:13][CH2:12][CH2:11][CH2:10][CH2:9][S:8].[CH3:7][C:2](=[CH2:1])[C:3](=[O:6])[O:4][CH3:5]>>[CH3:16][CH2:15][CH2:14][CH2:13][CH2:12][CH2:11][CH2:10][CH2:9][S:8][CH2:1][C:2]([CH3:7])[C:3](=[O:6])[O:4][CH3:5] 8-8,1; 1,2-8,1; 1,2-2",Room Temperature,Propagation,addition
"[CH2:5]1[CH2:4][CH2:3][CH:2]([CH2:7][CH2:6]1).[Cl:9][Cl:10]>>[CH2:5]1[CH2:4][CH2:3][CH:2]([CH2:7][CH2:6]1)[Cl:9].[Cl:10] 2-9,2; 9,10-9,2; 9,10-10",Room Temperature,Propagation,abstraction
"[Br:1][Br:2].[He]>>[He].[Br:1].[Br:2] 1,2-1; 1,2-2",Light,Initiation,homolyze
"[H:1][C:2]1=[C:3]([CH:17]=[CH:18][CH:19]=[CH:20]1)[C:4]([C:5]2=[CH:6][CH:7]=[CH:8][CH:9]=[CH:10]2)[C:11]3=[CH:12][CH:13]=[CH:14][CH:15]=[CH:16]3>>[H:1][C:2]1[CH:20]=[CH:19][CH:18]=[CH:17][C:3]1=[C:4]([C:5]2=[CH:6][CH:7]=[CH:8][CH:9]=[CH:10]2)[C:11]3=[CH:12][CH:13]=[CH:14][CH:15]=[CH:16]3 4-4,3; 2,3-3,4; 2,3-2",Room Temperature,Propagation,resonance
"C1CC(=O)[N:20](C1=O)[Br:21].C(Cl)(Cl)(Cl)Cl.[He]>>[He].C1CC(=O)[N:20]C1=O.C(Cl)(Cl)(Cl)Cl.[Br:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"C[C:21](C)(C#N)/[N:20]=N/C(C)(C)C#N.[Ar]>>[Ar].C[C:21](C)C#N.CC(C)(C#N)N=[N:20] 20,21-20;20,21-21",Heat,Initiation,homolyze
